US07674825B2
XIIa: 2-{[tert-Butyl(dimethyl)silyl]oxy}benzaldehyde
13.58 g (90.07 mmol) of t-butyidimethylsilyl chloride (TBDMSCl) were added to a solution of 10.00 g (81.89 mmol) of salicylaldehyde and 6.13 g (90.07 mmol) of imidazole in 82 ml of DMF. The mixture was stirred at room temperature and the reaction was monitored by thin-layer chromatography (cyclohexane/EA 10:1). 1 N NaOH was added, and the mixture was extracted with petroleum ether. The combined organic phases were dried over Na2SO4, the solvent was removed and the product was purified chromatographically (silica gel, cyclohexane/EA 10:1). This gave 16.94 g (87.5%) of a clear liquid.

reactant | t-butyidimethylsilyl chloride | 90.07 mmol, 13.58 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | salicylaldehyde | 81.89 mmol, 10.00 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | imidazole | 90.07 mmol, 6.13 g | N1C=NC=C1 | C3H4N2
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | DMF | 82 ml | CN(C)C=O | C3H7NO
solvent | cyclohexane EA | C1CCCCC1.CC(OCC)=O
product | 2-{[tert-Butyl(dimethyl)silyl]oxy}benzaldehyde | [Si](C)(C)(C(C)(C)C)OC1=C(C=O)C=CC=C1 | C13H20O2Si
